US05686424
L-Proline, 1-[2-(3,4,5-Trimethoxyphenyl)-2-Oxoethyl] Diphenylmethylamide Hydrochloride
Following the procedure described in Example 120, the coupling of N-[2-(3,4,5-trimethoxyphenyl)-2 -oxoethyl]-L-proline hydrochloride (250 mg, 0.69 mmol) and aminodiphenylmethane (0.12 mL, 0.69 mmol) provided, after treatment with HCl in Et2O, 132 mg of the hydrochloride salt of L-proline, 1-[2-(3,4,5-trimethoxyphenyl)-2-oxoethyl] diphenylmethylamide as a powder.

reactant | HCl | Cl | ClH
reactant | L-proline, 1-[2-(3,4,5-trimethoxyphenyl)-2-oxoethyl] diphenylmethylamide | COC=1C=C(C=C(C1OC)OC)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)NC([C@H]1NCCC1)=O)=O | C29H32N2O5
solvent | Et2O | CCOCC | C4H10O
product | L-Proline, 1-[2-(3,4,5-Trimethoxyphenyl)-2-Oxoethyl] Diphenylmethylamide Hydrochloride | Cl.COC=1C=C(C=C(C1OC)OC)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)NC([C@H]1NCCC1)=O)=O | InChI=1S/C29H32N2O5.ClH/c1-34-25-17-20(18-26(35-2)27(25)36-3)24(32)19-29(21-11-6-4-7-12-21,22-13-8-5-9-14-22)31-28(33)23-15-10-16-30-23;/h4-9,11-14,17-18,23,30H,10,15-16,19H2,1-3H3,(H,31,33);1H/t23-;/m0./s1
